US09290476B2
(3,4-Dimethoxyphenyl)(pyridin-3-yl)methanol
(3,4-dimethoxyphenyl)magnesium bromide (0.5 M in THF, 9.5 mL, 4.75 mmol) was added dropwise by syringe to a solution of nicotinaldehyde (0.88 mL, 9.37 mmol) in dry THF (20 mL) at 0° C. The reaction mixture was stirred for 30 minutes at 0° C., then quenched with saturated aqueous ammonium chloride solution. The mixture was partitioned between water and ethyl acetate. The separated aqueous phase was further extracted with ethyl acetate. The organic phase was dried (Na2SO4), filtered, and concentrated. The crude product was purified by flash column chromatography (silica gel, 0-60% EtOAc-hexanes) to provide the title compound as a brown oil.

reactant | (3,4-dimethoxyphenyl)magnesium bromide | 4.75 mmol, 0.5 M, 9.5 mL | COC=1C=C(C=CC1OC)[Mg]Br
reactant | nicotinaldehyde | 9.37 mmol, 0.88 mL | C(C1=CN=CC=C1)=O | C6H5NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3,4-Dimethoxyphenyl)(pyridin-3-yl)methanol | COC=1C=C(C=CC1OC)C(O)C=1C=NC=CC1 | C14H15NO3
